US08053438B2
A glass microwave reaction vessel was charged with 4-(3-(tetrahydro-2H-pyran-4-yl)pyridin-2-yloxy)aniline (0.2573 g, 0.952 mmol) and 2-chloro-1-(4-methoxybenzyl)-1H-benzo[d]imidazole (0.312 g, 1.142 mmol) in IPA. The reaction mixture was stirred and heated in a Biotage Initiator microwave reactor at 170° C. for 30 min. The crude product was adsorbed onto a plug of silica gel and chromatographed through a Biotage pre-packed silica gel column (40S), eluting with a gradient of 10% to 80% EtOAc in hexane, to provide 1-(4-methoxybenzyl)-N-(4-(3-(tetrahydro-2H-pyran-4-yl)pyridin-2-yloxy)phenyl)-1H-benzo[d]imidazol-2-amine. MS (ESI, pos. ion) m/z: 507.1 (M+1). IC50 (uM) +++++.

reactant | 4-(3-(tetrahydro-2H-pyran-4-yl)pyridin-2-yloxy)aniline | 0.952 mmol, 0.2573 g | O1CCC(CC1)C=1C(=NC=CC1)OC1=CC=C(N)C=C1 | C16H18N2O2
reactant | 2-chloro-1-(4-methoxybenzyl)-1H-benzo[d]imidazole | 1.142 mmol, 0.312 g | ClC1=NC2=C(N1CC1=CC=C(C=C1)OC)C=CC=C2 | C15H13ClN2O
solvent | IPA | CC(C)O | C3H8O
product | 1-(4-methoxybenzyl)-N-(4-(3-(tetrahydro-2H-pyran-4-yl)pyridin-2-yloxy)phenyl)-1H-benzo[d]imidazol-2-amine | COC1=CC=C(CN2C(=NC3=C2C=CC=C3)NC3=CC=C(C=C3)OC3=NC=CC=C3C3CCOCC3)C=C1 | C31H30N4O3
